US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was alkylated using 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester analogous to Example 1 to afford 4-{[(4-chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester:

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
product | 4-{[(4-chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN([C@H]1C(NCCC(C1)(F)F)=O)S(=O)(=O)C1=CC=C(C=C1)Cl | C23H32ClF2N3O5S
